US09359286B2
Intermediate 2B: (7R)-7-(4-Bromophenyl)-1,3-diazaspiro[4.4]nonane-2,4-dione
To a mixture of (R)-3-(4-bromophenyl)cyclopentanone (I-2A, 5.4 g, 22.58 mmol) and potassium cyanide (2.132 g, 32.7 mmol) in EtOH (40 mL) and water (20 mL) in a glass pressure vessel was added ammonium carbonate (5.42 g, 56.5 mmol). The reaction vessel was sealed and placed in an oil bath heated at 80° C. for 20 hours. A large amount of white, free flowing solid formed in the pale yellow solution. Analysis by LCMS indicated remaining starting material so the reaction was continued for an additional 24 hours. As conversion was incomplete, the temperature of the oil bath was raised to 120° C. The white solid completely dissolved at the higher temperature. After 3 hours the solution was cooled down to room temperature. The solution was further cooled in an ice bath, water (30 mL) was added and the resulting white solid was collected by filtration, washed with water, air dried, then placed under high vacuum to afford the target compound (6.9 g, 22.32 mmol) which was used for subsequent reaction without additional purification. HPLC retention time=0.81 min (Condition G); LC/MS MH=309/311; 2M+H=619.

reactant | (R)-3-(4-bromophenyl)cyclopentanone | 22.58 mmol, 5.4 g | BrC1=CC=C(C=C1)[C@H]1CC(CC1)=O | C11H11BrO
reactant | potassium cyanide | 32.7 mmol, 2.132 g | [C-]#N.[K+]
reactant | ammonium carbonate | 56.5 mmol, 5.42 g | C([O-])([O-])=O.[NH4+].[NH4+]
reactant | EtOH | 40 mL | CCO | C2H6O
solvent | water | 20 mL | O | H2O
solvent | water | 30 mL | O | H2O
product | (7R)-7-(4-Bromophenyl)-1,3-diazaspiro[4.4]nonane-2,4-dione | 22.32 mmol, 6.9 g | BrC1=CC=C(C=C1)[C@H]1CC2(C(NC(N2)=O)=O)CC1 | C13H13BrN2O2
